US04025636
Methyl 2-p-chlorophenyl-α-methoxy-6-benzoxazolyl-acetate (4.0 g.) was dissolved in dioxan (50 ml.) and a solution of sodium hydroxide (0.7g) in water was added. The solution was stirred for three hours then evaporated to dryness. The residue was stirred with dilute hydrochloric acid for thirty minutes. The solid was filtered off and recrystallised from water-ethanol to give 2-p-chlorophenyl-α-methoxy-6-benzoxazolylacetic acid, m.pt. 164°-6° C.

reactant | Methyl 2-p-chlorophenyl-α-methoxy-6-benzoxazolyl-acetate | 4.0 g | ClC1=CC=C(C=C1)C=1OC2=C(N1)C=CC(=C2)C(C(=O)OC)OC | C17H14ClNO4
reactant | sodium hydroxide | 0.7g | [OH-].[Na+]
solvent | dioxan | 50 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 2-p-chlorophenyl-α-methoxy-6-benzoxazolylacetic acid | ClC1=CC=C(C=C1)C=1OC2=C(N1)C=CC(=C2)C(C(=O)O)OC | C16H12ClNO4
